US05817678
Step G: Preparation of 1-Triphenylmethyl-4-(acetoxymethyl)-imidazole
1-Triphenylmethyl-4-(hydroxymethyl)-imidazole (260 mmol) was suspended in pyridine (500 mL). Acetic anhydride (74 mL, 780 mmol) was added dropwise, and the reaction was stirred for 48 hr during which it became homogeneous. The solution was poured into EtOAc, washed sequentially with water, 5% aqueous HCl solution, satd aqueous NaHCO3, solution, and brine. The organic extracts were dried (Na2SO4), and concentrated in vacuo to provide the product as a white powder, which was sufficiently pure for use in the next reaction.

reactant | 1-Triphenylmethyl-4-(hydroxymethyl)-imidazole | 260 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
reactant | Acetic anhydride | 780 mmol, 74 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 1-Triphenylmethyl-4-(acetoxymethyl)-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)COC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
